US06927219B2
N-ADAMANTAN-1-YLM ETHYL-2-CHLORO-5-(4-METHYL-3,5-DIOXO-4,5-DIHYDRO-3H-[1,2,4]TRIAZIN-2-YL)-BENZAMIDE
To a stirred solution of N-adamantan-1-ylmethyl-2-chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide (66 mg, 0.159 mmol) in dioxane (1.5 ml) was added methanol (0.32 ml) followed by a 2.0 M solution of (trimethylsilyl)diazomethane (0.32 ml). After stirring for 18 hours at ambient temperature the mixture was concentrated under reduced pressure to give 67 mg of a light yellow amorphous solid. Mass Specrum (ES+) 429.6; (ES−) 427.6. Liquid chromatography retention time=2.8 min (using the LC/MS and method outlined for the examples in Table 1).

reactant | N-adamantan-1-ylmethyl-2-chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide | 0.159 mmol, 66 mg | C12(CC3CC(CC(C1)C3)C2)CNC(C2=C(C=CC(=C2)N2N=CC(NC2=O)=O)Cl)=O | C21H23ClN4O3
reactant | methanol | 0.32 ml | CO | CH4O
reactant | (trimethylsilyl)diazomethane | 0.32 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | N-ADAMANTAN-1-YLM ETHYL-2-CHLORO-5-(4-METHYL-3,5-DIOXO-4,5-DIHYDRO-3H-[1,2,4]TRIAZIN-2-YL)-BENZAMIDE | 67 mg | C12(CC3CC(CC(C1)C3)C2)CNC(C2=C(C=CC(=C2)N2N=CC(N(C2=O)C)=O)Cl)=O | C22H25ClN4O3
